US07589206B2
e) 1-[4-(3-Chloro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridin-7-yl]-1-morpholin-4-yl-methanone hydrochloride
A mixture of 4-(3-chloro-phenylamino)-1H-methyl-1H-pyrrolo[3,2-c]pyridin-7-carboxylic acid (29 mg), morpholine (36 ul), 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride (76 mg), 1-hydroxybenzotriazole hydrate (54 mg) and N,N-diisopropylethylamine (140 ul) in dimethylformamide (2 ml) was stirred overnight then added to a mixture of ethyl acetate (20 ml) water (20 ml) and saturated sodium bicarbonate (10 ml). The layers were separated and the organic layer washed with water 3 times, brine, dried (MgSO4) and evaporated to give a gum. Purified on MDAP and the product split into two fractions. The first fraction was evaporated, dissolved in ethyl acetate and washed as above, dried and evaporate to give a solid. This was triturated with ether and purified by MDAP and chromatography on silica gel, eluting with dichloromethane/methanol, 20:1, to give the free base which was taken up in DCM treated with ethereal HCl, evaporated and triturated with ether to give the title compound as a solid (11 mg)

reactant | morpholine | 36 ul | N1CCOCC1 | C4H9NO
reactant | 1-(3-dimethylamino-propyl)-3-ethylcarbodiimide hydrochloride | 76 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole hydrate | 54 mg | O.ON1N=NC2=C1C=CC=C2
reactant | N,N-diisopropylethylamine | 140 ul | C(C)(C)N(C(C)C)CC | C8H19N
reactant | sodium bicarbonate | 10 ml | C([O-])(O)=O.[Na+]
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | DCM | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(3-Chloro-phenylamino)-1-methyl-1H-pyrrolo[3,2-c]pyridin-7-yl]-1-morpholin-4-yl-methanone hydrochloride | 11 mg | Cl.ClC=1C=C(C=CC1)NC1=NC=C(C2=C1C=CN2C)C(=O)N2CCOCC2 | InChI=1S/C19H19ClN4O2.ClH/c1-23-6-5-15-17(23)16(19(25)24-7-9-26-10-8-24)12-21-18(15)22-14-4-2-3-13(20)11-14;/h2-6,11-12H,7-10H2,1H3,(H,21,22);1H
